US05217999
To 2 g (12.6 mmol) 4-methoxycinnamonitrile in 10:10:20 ml H2O:HOAc:pyridine was added 5 g (47 mmol) NaH2PO2 (hypophosphite) followed by 2 g Ra-Ni. After stirring 3 hours at 50° C., the reaction mixture was filtered, extracted with CH2Cl2, washed with dilute HCl, washed with H2O and evaporated to give 0.7 g (35% yield) 4-methoxycinnamaldehyde, a yellow solid, m.p. 47° C.

reactant | 4-methoxycinnamonitrile | 12.6 mmol, 2 g | COC1=CC=C(C=CC#N)C=C1 | C10H9NO
reactant | H2O | 20 ml | O | H2O
reactant | HOAc | CC(=O)O | C2H4O2
catalyst | Ra-Ni | 2 g | [Ni] | Ni
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-methoxycinnamaldehyde | 0.7 g, 35% yield | COC1=CC=C(C=CC=O)C=C1 | C10H10O2
